US04594345
A mixture of 225 grams of 2-hydroxypropiophenone, 247 grams of allyl bromide, 415 grams of potassium carbonate and 5 grams of potassium iodide is heated to reflux for twenty four hours in 1 liter of acetone. After cooled, insoluble matters are removed by filtration, the filtrate is concentrated, the residue is dissolved in benzene, and the solution is washed with 10% sodium hydroxide solution. After washing with water, the solution is dried with anhydrous magnesium sulfate and benzene is evaporated therefrom. The resulting oil is distilled in vacuo to give 266 grams of 2-allyloxypropiophenone, colorless oil, b.p. 120° to 124° C.

reactant | 2-hydroxypropiophenone | 225 grams | OC(C(=O)C1=CC=CC=C1)C | C9H10O2
reactant | allyl bromide | 247 grams | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 415 grams | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 1 liter | CC(=O)C | C3H6O
catalyst | potassium iodide | 5 grams | [I-].[K+]
product | 2-allyloxypropiophenone | 266 grams | C(C=C)OC(C(=O)C1=CC=CC=C1)C | C12H14O2
